US04556677
Ethyl 2-ethyl-3-(p-methoxyphenyl)-3-phenylpropenoate
7.3 g (0.02 mol) of ethyl 2-ethyl-3-hydroxy-3-(p-methoxyphenyl)-3-phenylpropionate were dehydrated in 150 ml of chloroform by using trifluoroacetic acid as catalyst (see example 10) to give 6.7 g (93%) of product, which was a mixture of E- and Z-isomers.

reactant | ethyl 2-ethyl-3-hydroxy-3-(p-methoxyphenyl)-3-phenylpropionate | 0.02 mol, 7.3 g | C(C)C(C(=O)OCC)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)O | C20H24O4
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | Ethyl 2-ethyl-3-(p-methoxyphenyl)-3-phenylpropenoate | 6.7 g, 93% | C(C)C(C(=O)OCC)=C(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C20H22O3
